US06599917B1
e) 3-Benzyl-6-(hydroxymethyl)-4,5,6,7,-tetrahydrobenzo[b]thiophene
A solution of 10 ml of diethyl ether containing 2.8 g of 3-benzyl-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene was slowly added dropwise into a suspension of 100 ml of diethyl ether containing 421 mg of lithium aluminum hydride under ice-cooling. After stirring as it was for 30 minutes, 0.4 ml of water, 0.4 ml of an aqueous 1N sodium hydroxide solution and 0.4 ml of water were successively added to the reaction solution and the mixture was dried over anhydrous magnesium sulfate. After filtering, the solvent was removed, to give 2.5 g of the target compound.

reactant | diethyl ether | 10 ml, 2.8 g | C(C)OCC | C4H10O
reactant | 3-benzyl-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | C(C1=CC=CC=C1)C=1C2=C(SC1)CC(CC2)C(=O)OCC | C18H20O2S
reactant | diethyl ether | 100 ml, 421 mg | C(C)OCC | C4H10O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 0.4 ml | O | H2O
solvent | water | 0.4 ml | O | H2O
product | 3-Benzyl-6-(hydroxymethyl)-4,5,6,7,-tetrahydrobenzo[b]thiophene | 2.5 g | C(C1=CC=CC=C1)C=1C2=C(SC1)CC(CC2)CO | C16H18OS
